US07786108B2
Step 1. Preparation of 1,3-Dihydro-isobenzofuran-5-ylamine
To a solution of 1,3-dihydro-isobenzofuran (83.2 mmol) in sulfuric acid (75 mL), cooled in an ice bath, add a solution of potassium nitrate (83.2 mmol) in sulfuric acid (25 mL) dropwise. After stirring for 30 min, pour the reaction mixture over ice and collect the resulting precipitate on a glass frit. Wash the precipitate with water (200 mL) and dry under vacuum. Dissolve the precipitate in ethanol (250 mL) and add tin chloride dihydrate (273.6 mmol). After heating at 70° C. for 2 h, dilute with water (200 mL), cool to room temperature, and neutralize the reaction with 5 N NaOH. Extract the mixture with ethyl acetate (3×200 mL) and dry the organic portion over sodium sulfate. Remove the solvent in vacuo to afford the title compound as a tan solid. 1H NMR (CDCl3, 400 MHz) δ 3.50 (bs, 2H), 5.02 (s, 4H), 6.56 (d, J=2.4 Hz, 1H), 6.60 (dd, J=2.4, 8.0 Hz, 1 H), 7.01 (d, J=8.0 Hz, 1H).

reactant | 1,3-dihydro-isobenzofuran | 83.2 mmol | C1OCC2=CC=CC=C12 | C8H8O
reactant | potassium nitrate | 83.2 mmol | [N+](=O)([O-])[O-].[K+]
reactant | tin chloride dihydrate | 273.6 mmol | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | sulfuric acid | 75 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 mL | O | H2O
product | 1,3-Dihydro-isobenzofuran-5-ylamine | C1OCC2=CC(=CC=C12)N | C8H9NO
